US05002949
A stirred suspension of 4,6-dichloro-2-methylpyrimidine (39.5 g, 244 mmol) in 1,2-dimethoxyethane (50 mL) in a sealable pressure reaction vessel was treated with concentrated aqueous ammonium hydroxide (40 mL). The mixture was vigorously stirred at 23° C. for 14 days in the sealed vessel. The mixture was then diluted with water and filtered. The isolated white solids were rinsed with water and dried in vacuo to afford 6-chloro-2-methyl-4-aminopyrimidine (20.94 g, 146 mmol, 60% yield): mp 191°-192° C.; Rf 0.49 (EtOAc); 1H NMR (DMSO-D6, 200 MHz)δ7.09 (br s, 2H, NH), 6.24 (s, 1H), 2.26 (s, 3H).

reactant | 4,6-dichloro-2-methylpyrimidine | 244 mmol, 39.5 g | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | ammonium hydroxide | 40 mL | [OH-].[NH4+]
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | water | O | H2O
product | 6-chloro-2-methyl-4-aminopyrimidine | 146 mmol, 20.94 g, 60% yield | ClC1=CC(=NC(=N1)C)N | C5H6ClN3
